US09416135B2
A mixture of (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (45 mg, 0.128 mmol), 5-bromo-2-chloro-4-(trifluoromethyl)pyrimidine (40 mg, 1.2eq.), DIPEA (90 μL, 4eq.) and DMF (1.5 mL) was put in Microwave Oven and heated 90 min. at 130° C. The mixture was participated between EtOAc and water. The aqueous layer was extracted twice by EtOAc. The combined organic layers were washed by brine, dried over Na2SO4. After filtration and concentration, the residue was purified by ISCO (12 g column, 10-40% EtOAc in Hexanes) to afford 34.4 mg (47% yield) of (R)-methyl 2-(4-bromo-3-(trifluoromethyl)phenyl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate.

reactant | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.128 mmol, 45 mg | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
reactant | 5-bromo-2-chloro-4-(trifluoromethyl)pyrimidine | 40 mg, 1.2eq. | BrC=1C(=NC(=NC1)Cl)C(F)(F)F | C5HBrClF3N2
reactant | DIPEA | 90 μL, 4eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-methyl 2-(4-bromo-3-(trifluoromethyl)phenyl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 34.4 mg, 47% yield | BrC1=C(C=C(C=C1)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C)C(F)(F)F | C23H23BrF3N3O4S
